US06225330B1
N1-({4-[(9-fluoro-5,6-dihydro-4H-benzo[6,7]cyclohepta-[d][1,3]thiazol-2-yl)amino]cyclohexyl}methyl)-2-methoxyacetamide:
To a stirred, septum capped solution of trans-N2-[4-(aminomethyl)cyclohexyl]-9-fluoro-5,6-dihydro-4H-benzo[6,7]cyclohepta[d][1,3]thiazol-2-amine (5.00 g, 11.95 mmol) in anhydrous pyridine (20 ml) and diisopropylethylamine (10 ml) was added methoxyacetyl chloride (1.20 ml, 13.1 mmol) dropwise. The solution was stirred at room temperature for 2 hours and was then poured into 250 ml water and extracted with 250 ml EtOAc. The extract was evaporated to yield a golden viscous oil which was chromatographed on silica-gel eluting with EtOAc to yield 88% (4.40 g) of the desired product as a slightly yellow solid. A small portion of the product was recrystallized from EtOAc (m.p. 95-97° C.). The free-base was dissolved in 60 ml CHCl3 and converted to its HCl salt by adding 14.0 ml 1.0 N HCl in ether followed by evaporation of the solvent. The resulting foam was stirred with ether (75 ml), filtered and washed with ether to yield the HCl salt as a solid: 1H-NMR (Free-base) (CDCl3) δ 1.12 (4H, m), 1.45 (1H, m), 1.81 (2H, m), 2.05 (2H, m), 2.21 (2H, m), 2.80 (4H, m), 3.16 (2H, t, J=6.5 Hz), 3.25 (1H, m), 3.41 (3H, s), 3.89 (2H, s), 5.03 (1H, d, J=8.0 Hz), 6.62 (1H, broad t), 6.81 (1H, dt, J=2.9, 8.3 Hz), 7.03 (1H, m), 7.69 (1H, dd, J=2.8, 10.8 Hz). m.p. 63-65° C. Anal. Calcd. For C22H29N3O2SFCl+0.5CHCl3: C, 52.61; H, 5.79; N, 8.18. Found: C, 52.61; H, 5.92; N, 8.08; 418 (ESMS, MH+).

reactant | trans-N2-[4-(aminomethyl)cyclohexyl]-9-fluoro-5,6-dihydro-4H-benzo[6,7]cyclohepta[d][1,3]thiazol-2-amine | 11.95 mmol, 5.00 g | NC[C@@H]1CC[C@H](CC1)NC=1SC2=C(N1)C1=C(CCC2)C=CC(=C1)F | C19H24FN3S
reactant | methoxyacetyl chloride | 13.1 mmol, 1.20 ml | COCC(=O)Cl | C3H5ClO2
reactant | water | 250 ml | O | H2O
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
solvent | diisopropylethylamine | 10 ml | C(C)(C)N(CC)C(C)C | C8H19N
product | N1-({4-[(9-fluoro-5,6-dihydro-4H-benzo[6,7]cyclohepta-[d][1,3]thiazol-2-yl)amino]cyclohexyl}methyl)-2-methoxyacetamide | 4.40 g, 88% | FC1=CC2=C(CCCC3=C2N=C(S3)NC3CCC(CC3)CNC(COC)=O)C=C1 | C22H28FN3O2S
